US05137918
N-(2'-Nitrophenyl)-4-(3-benzyloxypropanoylamino)-benzamide is prepared analogously to Example 1 using 12 g (40.1 mMole) 4 (3 benzyloxypropanoylamino)-benzoic acid, 6.6 g (0.13 mMole) oxalyl chloride, 9.7 g (0.13 mole) dimethylformamide, 2×4.5 g pyridine, 6.1 g (44.1 mMole) o-nitroaniline, and 280 mL dry ethyl acetate. The crude product is purified by column chromatography (silica gel; ethyl acetate/n hexane 1:5-1:1 v/v). Yield 3.5 g (21% of theory); m.p. 140° C.

reactant | (3 benzyloxypropanoylamino)-benzoic acid | C(C1=CC=CC=C1)OCCC(=O)NC1=C(C(=O)O)C=CC=C1 | C17H17NO4
reactant | oxalyl chloride | 0.13 mMole, 6.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.13 mole, 9.7 g | CN(C=O)C | C3H7NO
reactant | o-nitroaniline | 44.1 mMole, 6.1 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
solvent | ethyl acetate | 280 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 4.5 g | N1=CC=CC=C1 | C5H5N
product | N-(2'-Nitrophenyl)-4-(3-benzyloxypropanoylamino)-benzamide | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC(CCOCC1=CC=CC=C1)=O)=O | C23H21N3O5
